US07834035B2
To a suspension of 2-[3-(4-fluoro-phenyl)-[1,2,4]oxadiazol-5-yl]-morpholine hydrochloride (0.15 g, 0.53 mmol) in anhydrous dichloromethane (6 mL), under nitrogen atmosphere, triethylamine (155 mL, 1.1 mmol) and 4-fluorobenzoyl chloride (62 mL, 0.53 mmol) were subsequently added at 0° C. The reaction mixture was allowed to warm at room temperature and stirred overnight. HCl 1N (6 mL) was added and the phases were separated. The organic layer was washed sequentially with HCl 1N (6 mL), NaOH 1N (6 mL×2 times) and with water, then was dried over sodium sulphate and evaporated under reduced pressure. The crude was purified by flash chromatography (silica gel, eluent: hexane/ethyl acetate 7/3) to afford 120 mg of (4-fluoro-phenyl)-{2-[3-(4-fluoro-phenyl)-[1,2,4]oxadiazol-5-yl]-morpholin-4-yl}-methanone as a white solid.

reactant | 2-[3-(4-fluoro-phenyl)-[1,2,4]oxadiazol-5-yl]-morpholine hydrochloride | 0.53 mmol, 0.15 g | Cl.FC1=CC=C(C=C1)C1=NOC(=N1)C1CNCCO1
reactant | triethylamine | 1.1 mmol, 155 mL | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzoyl chloride | 0.53 mmol, 62 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | HCl | 1N, 6 mL | Cl | ClH
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | (4-fluoro-phenyl)-{2-[3-(4-fluoro-phenyl)-[1,2,4]oxadiazol-5-yl]-morpholin-4-yl}-methanone | 120 mg, Yield: 61% | FC1=CC=C(C=C1)C(=O)N1CC(OCC1)C1=NC(=NO1)C1=CC=C(C=C1)F | C19H15F2N3O3
